US04997840
A solution of sulphuryl chloride (9 ml) in dichloromethane (15 ml) was added dropwise to the solution of 2'-acetyl-5'-chloro-N-methylformanilide under nitrogen whilst maintaining the temperature at 0 to Water (40 ml) was then added dropwise whilst maintaining the temperature at 0 to 10°. The mixture was stirred for a further 5 minutes and then the dichloromethane layer was separated and dried over magnesium sulphate to give a solution of 5'-chloro-2'-(2-chloroacetyl)-N-methylformanilide.

reactant | sulphuryl chloride | 9 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2'-acetyl-5'-chloro-N-methylformanilide | C(C)(=O)C1=C(N(C=O)C)C=C(C=C1)Cl | C10H10ClNO2
reactant | Water | 40 ml | O | H2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 5'-chloro-2'-(2-chloroacetyl)-N-methylformanilide | ClC=1C=CC(=C(N(C=O)C)C1)C(CCl)=O | C10H9Cl2NO2
